US04761408
(be) (3S,4S)-1-(p-methoxybenzyl)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-tert.-butoxycarbonyl-2-azetidinone
At 0°, 24 ml of 1N NaOH, 820 mg of tetrabutylammonium bisulphate and 1 ml of chloroformic acid allyl ester are added to a solution of 2 g of (3S,4S)-1-(p-methoxybenzyl)-3-[(1R)-1-hydroxyethyl)-4-tert.-butoxycarbonyl-2-azetidinone in 24 ml of methylene chloride and the whole is stirred vigorously. After a reaction time of 20 and 40 minutes, further portions (each of 1 ml) of chloroformic acid allyl ester are added. The reaction mixture is diluted with methylene chloride, the aqueous phase is separated off and the organic layer is washed in succession with 5% aqueous citric acid and 8% aqueous NaHCO3 solution and then dried and concentrated by evaporation. After purifying by chromatography, the pure, amorphous title compound is obtained.

reactant | NaOH | 1N, 24 ml | [OH-].[Na+]
reactant | chloroformic acid allyl ester | 1 ml | C(C=C)OC(=O)Cl | C4H5ClO2
reactant | (3S,4S)-1-(p-methoxybenzyl)-3-[(1R)-1-hydroxyethyl)-4-tert.-butoxycarbonyl-2-azetidinone | 2 g | COC1=CC=C(CN2C([C@@H]([C@H]2C(=O)OC(C)(C)C)[C@@H](C)O)=O)C=C1 | C18H25NO5
catalyst | tetrabutylammonium bisulphate | 820 mg | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 24 ml | C(Cl)Cl | CH2Cl2
product | (3S,4S)-1-(p-methoxybenzyl)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-tert.-butoxycarbonyl-2-azetidinone | COC1=CC=C(CN2C([C@@H]([C@H]2C(=O)OC(C)(C)C)[C@@H](C)OC(=O)OCC=C)=O)C=C1 | C22H29NO7
